US07981882B2
3-(2-Phenyl-[1,3]dioxolan-2-yl)-propylamine
Dissolve 2-[3-(2-phenyl-[1,3]dioxolan-2-yl)-propyl]-isoindole-1,3-dione (38 g, 112.91 mmol) in 2 M methylamine solution in methanol (300 mL) and heat in a sealed tube for 3 h at 50° C. Cool the solution to RT, concentrate and purify (silica gel chromatography, eluting with 25:75 DCM:2 M ammonia in methanol) to give the title compound as an oil (11 g, 47%).

reactant | 2-[3-(2-phenyl-[1,3]dioxolan-2-yl)-propyl]-isoindole-1,3-dione | 112.91 mmol, 38 g | C1(=CC=CC=C1)C1(OCCO1)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H19NO4
solvent | methylamine | 2 M | CN | CH5N
solvent | methanol | 300 mL | CO | CH4O
product | 3-(2-Phenyl-[1,3]dioxolan-2-yl)-propylamine | 11 g, 47% | C1(=CC=CC=C1)C1(OCCO1)CCCN | C12H17NO2
